US07625902B2
In analogy to example 2, L-serine was reacted with benzenesulfonyl chloride to give (S)-2-benzenesulfonylamino-3-hydroxy-propionic acid.

reactant | L-serine | N[C@@H](CO)C(=O)O | C3H7NO3
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | (S)-2-benzenesulfonylamino-3-hydroxy-propionic acid | C1(=CC=CC=C1)S(=O)(=O)N[C@H](C(=O)O)CO | C9H11NO5S
